US05162322
3-Phenyl-5-[4-(4-phenyl-1-piperazinyl)butyl]-2-oxazolidinone.
Following the procedure of Example 5, a mixture of 5-(4-chlorobutyl)-3-phenyl-2-oxazolidinone (3.0 g, 0.01186 mol), 1-phenylpiperazine hydrochloride (2.35 g, 0.01186 mol), potassium carbonate (6.54 g, 0.0473 mol), and potassium iodide (1.0 g) in 1-butanol gave a liquid (4.1 g, 91% yield) which crystallized upon standing. Recrystallization from isopropanol/isopropyl/-ether and drying under high vacuum gave 1.44 g, mp 83°-85° C.

reactant | 5-(4-chlorobutyl)-3-phenyl-2-oxazolidinone | 0.01186 mol, 3.0 g | ClCCCCC1CN(C(O1)=O)C1=CC=CC=C1 | C13H16ClNO2
reactant | 1-phenylpiperazine hydrochloride | 0.01186 mol, 2.35 g | Cl.C1(=CC=CC=C1)N1CCNCC1
reactant | potassium carbonate | 0.0473 mol, 6.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
solvent | 1-butanol | C(CCC)O | C4H10O
product | 3-Phenyl-5-[4-(4-phenyl-1-piperazinyl)butyl]-2-oxazolidinone | 4.1 g, 91% yield | C1(=CC=CC=C1)N1C(OC(C1)CCCCN1CCN(CC1)C1=CC=CC=C1)=O | C23H29N3O2
